US08735384B2
A mixture of 2-bromo-3-methylbenzonitrile (0.744 g, 3.79 mmol), N-(4-methoxybenzyl)-3-(tetrahydro-2H-pyran-4-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (0.60 g, 1.265 mmol), 2-(dicyclohexylphosphino)-2′,4′,6′,-tri-1-propyl-1,1′-biphenyl (0.121 g, 0.253 mmol), potassium phosphate, anhydrous (0.524 mL, 6.32 mmol), and Pd2(dba)3 (0.116 g, 0.126 mmol) was purged with N2 followed by the addition of degassed dioxane (2 mL) and degassed water (1.0 mL). The resulting mixture was heated in microwave at 140° C. for 12 min. The reaction went to completion and it was filtered, concentrated, and chromatographed on silica gel using gradient 2:1 hexanes/EtOAc to afford a yellow solid as (2-(2-(4-methoxybenzylamino)-3-(tetrahydro-2H-pyran-4-yl) quinolin-6-yl)-3-methylbenzonitrile.

reactant | 2-bromo-3-methylbenzonitrile | 3.79 mmol, 0.744 g | BrC1=C(C#N)C=CC=C1C | C8H6BrN
reactant | N-(4-methoxybenzyl)-3-(tetrahydro-2H-pyran-4-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 1.265 mmol, 0.60 g | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2C2CCOCC2)B2OC(C(O2)(C)C)(C)C)C=C1 | C28H35BN2O4
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′,-tri-1-propyl-1,1′-biphenyl | 0.253 mmol, 0.121 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C1CCCCC1 | C33H49P
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.126 mmol, 0.116 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(2-(4-methoxybenzylamino)-3-(tetrahydro-2H-pyran-4-yl) quinolin-6-yl)-3-methylbenzonitrile | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2C2CCOCC2)C2=C(C#N)C=CC=C2C)C=C1 | C30H29N3O2
